US08207164B2
g) N-[(S)-2-(5-Bromo-2-fluoro-phenyl)-2-hydroxy-propyl]-2-nitro-benzenesulfonamide
To a solution of (S)-1-amino-2-(5-bromo-2-fluoro-phenyl)-propan-2-ol (34.7 g, 140 mmol) in THF (400 ml) was added 2-nitro-benzenesulfonyl chloride (34.9 g, 154 mmol) at 0-5° C. and afterwards 1N aqueous NaOH over a period of 0.5 h. The reaction mixture was stirred for 2 h at 20° C. The reaction mixture was diluted with TBME and washed with water and NaH2PO4 solution and brine, dried over MgSO4, filtered and concentrated to provide the title compound after crystallization from TBME-hexane as beige crystals: TLC (toluene-EtOAc 3:1): Rf=0.51; HPLC RtH5=1.118 min; ESIMS: 450, 452 [(M+NH4)+]; 1H NMR (360 MHz, CDCl3): δ 7.98 (m, 1H), 7.81 (m, 1H), 7.65 (m, 2H), 7.59 (dd, 1H), 7.24 (m, 1H), 6.79 (dd, 1H), 5.60 (t, 1H), 4.16 (br s, 1H), 3.55 (dd, 1H), 3.44 (dd, 1H), 2.51 (s, 1H), 1.51 (s, 3H).

reactant | (S)-1-amino-2-(5-bromo-2-fluoro-phenyl)-propan-2-ol | 140 mmol, 34.7 g | NC[C@@](C)(O)C1=C(C=CC(=C1)Br)F | C9H11BrFNO
reactant | 2-nitro-benzenesulfonyl chloride | 154 mmol, 34.9 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | NaOH | 1N | [OH-].[Na+]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | TBME | CC(C)(C)OC | C5H12O
product | N-[(S)-2-(5-Bromo-2-fluoro-phenyl)-2-hydroxy-propyl]-2-nitro-benzenesulfonamide | BrC=1C=CC(=C(C1)[C@](CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])(C)O)F | C15H14BrFN2O5S
